Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"I am losing control"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ yo female ___ senior with reported h/o 
ADHD and depression, SIB via cutting and, more recently, daily 
binge drinking, admitted from ED for further assessment and 
stabilization after attempting to OD on Paxil in the context of 
arguing with her BF.  Pt reports theirs is a volatile 
relationship in which she has suffered physical, mental and 
emotional abuse (including a broken nose a few weeks ago).  She 
states she has been in the process of ending the relationship 
for weeks and attributes much of her functional decline and 
increased SIB to this.  Denies manic and psychotic sx.  Endorses 
neuroveg.sx of impaired sleep,low energy, low self esteem.   
 
Past Medical History:
recently fractured nose, followed as outpt by plastics at ___
 
Social History:
___
Family History:
maternal aunts with depression.  No family suicide.
 
Pertinent Results:
___ 06:10AM   ALT(SGPT)-17 AST(SGOT)-21 ALK PHOS-66 TOT 
BILI-0.2
___ 06:10AM   CALCIUM-8.6 PHOSPHATE-4.7* MAGNESIUM-2.0
___ 06:10AM   HCG-<5
___ 07:15PM   GLUCOSE-94 UREA N-16 CREAT-1.0 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-31 ANION GAP-11
___ 07:15PM   estGFR-Using this
___ 07:15PM   TSH-0.61
___ 07:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:15PM   WBC-9.6 RBC-4.24 HGB-11.7* HCT-35.0* MCV-83 
MCH-27.7 MCHC-33.6 RDW-13.3
___ 07:15PM   NEUTS-59.4 ___ MONOS-3.5 EOS-1.6 
BASOS-0.7
___ 07:15PM   NEUTS-59.4 ___ MONOS-3.5 EOS-1.6 
BASOS-0.7
___ 07:15PM   PLT COUNT-483*#
 
Brief Hospital Course:
Pt admitted to Deac 4 on conditional voluntary basis.  She 
remained in behavioral control throughout her hospital stay and 
participated in treatment.  No medication changes were made, as 
pt was in the process of tapering off Paxil and desired further 
psychopharm evaluation by new outpt psychiatrist (to which she 
was referred by time of discharge). She was placed on MVI, 
thiamine, folate and a CIWA, but required no benzodiazepins for 
detox. Individual and group therapy focused on improving coping 
skills, which pt found helpful, with a decrease in urges for SIB 
(be it cutting or binge drinking). 
 
Medications on Admission:
Paxil 40 mg daily
Xanax 0.5 mg daily prn anxiety
BCPs
 
Discharge Medications:
1. Paroxetine HCl 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Alprazolam 0.25 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily) as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I  - Alcohol Abuse; Substance Induced Mood Disorder
Axis II  - deferred
Axis III - none active

 
Discharge Condition:
MSE - Appropriately groomed. Speech fluent. Mood "good" Affect 
reactive. No SI/HI.  TP linear.  No AVH, IOR.  I/J improved.  At 
no apparent acute risk of harm to self/others and appropriate 
for dc home.

 
Discharge Instructions:
Please follow up with out patient providers.  
Please go to nearest ED should you feel unsafe.
 
Followup Instructions:
___